US09328096B2
5-(2-chloro-5-(3-cyanopyridin-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide
The title compound was prepared according to the method described for Example 83 using 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide in dioxane (Preparation 10) and 2-chloronicotinonitrile with potassium carbonate as base.

reactant | 5-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C26H28BClN4O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloronicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-chloro-5-(3-cyanopyridin-2-yl)benzamido)-N-cyclopropyl-1-phenyl-1H-pyrazole-3-carboxamide | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)NC2CC2)C=C(C=C1)C1=NC=CC=C1C#N | C26H19ClN6O2
